US06239151B1
A solution of 0.415 g of 2-(1-imidazoyl)acetic acid hydrogen bromide and 0.461 g of 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide in 5 ml of dimethylformamide was treated with 0.230 g of N-ethylmorpholine and 0.422 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and the mixture stirred overnight at room temperature. Evaporation gave a residue which was dissolved in ethyl acetate and washed with water and saturated aqueous sodium chloride solution. Drying over anhydrous magnesium sulphate, evaporation and trituration with diethyl ether followed by filtration and evaporation gave 0.340 g of 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenylbutyl]-2′-[2-(1-imidazoyl)acetyl]-2′-isobutyl-4-methylvalerohydrazide in the form of a white solid.

reactant | 2-(1-imidazoyl)acetic acid hydrogen bromide | 0.415 g | Br.N1(C=NC=C1)C(=O)CC(=O)O
reactant | 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide | 0.461 g | O1C(CCCC1)ONC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H43N3O4
reactant | N-ethylmorpholine | 0.230 g | C(C)N1CCOCC1 | C6H13NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.422 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenylbutyl]-2′-[2-(1-imidazoyl)acetyl]-2′-isobutyl-4-methylvalerohydrazide | 0.340 g | O1C(CCCC1)ONC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN(CC(C)C)C(CC(=O)N1C=NC=C1)=O)CC(C)C | C32H47N5O6
